US07790754B2
A solution of 2-bromo-4-chloro-6-fluoroaniline (25.0 g, 111 mmol) in 200 mL of anhydrous DCM, in a 2 liter round-bottom flask equipped with a bubbler, was treated with nitrosonium tetrafluoroborate (14.3 g, 123 mmol), at ambient temperature. After 1 hour complete consumption of the aniline was observed. The reaction mixture was cooled to 0° C. prior to the addition of potassium cyanide (14.5 g, 223 mmol). With rapid stirring, an aqueous solution of cupric sulfate hexahydrate (55.6 g, 223 mmol in 125 mL of water) was slowly added producing a large volume of gas evolution. After stirring for 40 minutes, the ice bath was removed and the reaction was allowed to warm to ambient temperature. After 1 hour at ambient temperature, the reaction mixture was diluted with additional DCM and then slowly quenched by the addition of aqueous saturated sodium bicarbonate until additional gas evolution is no longer observed. The resulting heterogeneous mixture was then filtered through a large pad of celite, washing with DCM as needed. The organic filtrate was then washed twice with saturated brine prior to drying over sodium sulfate. Filtration and solvent removal provided material which was subjected to silica gel chromatography eluting with 0-25% DCM in heptane. Collection of product containing fractions and removal of solvent yielded 9.76 grams of 2-bromo-4-chloro-6-fluorobenzo-nitrile, which gave LC/MS and proton NMR spectra consistent with theory.

reactant | 2-bromo-4-chloro-6-fluoroaniline | 111 mmol, 25.0 g | BrC1=C(N)C(=CC(=C1)Cl)F | C6H4BrClFN
reactant | nitrosonium tetrafluoroborate | 123 mmol, 14.3 g | F[B-](F)(F)F.N#[O+]
reactant | potassium cyanide | 223 mmol, 14.5 g | [C-]#N.[K+]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-chloro-6-fluorobenzo-nitrile | 9.76 grams | BrC1=C(C#N)C(=CC(=C1)Cl)F | C7H2BrClFN
